US08486297B2
A mixture of 5.50 g (31.0 mmol) of 2-bromo-5-methylthiophene, 9.0 g (32.6 mmol) of 4′-propyl-3,5-difluoro-4-biphenylboronic acid, 1.83 g (1.58 mmol) of tetrakis(triphenylphosphine)palladium(0) and 36 ml of 2 N sodium carbonate soln. in 90 ml of toluene/ethanol (1:2) is heated under reflux for 16 h. After cooling, the organic phase is separated off, and the aqueous phase is extracted a number of times with toluene. The combined organic phases are washed with water and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to completion. The residue is purified by column chromatography (SiO2, n-heptane:toluene=9:1). Further purification is carried out by recrystallisation from ethanol and n-heptane; 2-(3,5-difluoro-4′-propylbiphenyl-4-yl)-5-methylthiophene (PUS-3-1) is obtained as a colourless solid (m.p. 75° C.).

reactant | 2-bromo-5-methylthiophene | 31.0 mmol, 5.50 g | BrC=1SC(=CC1)C | C5H5BrS
reactant | 4′-propyl-3,5-difluoro-4-biphenylboronic acid | 32.6 mmol, 9.0 g | C(CC)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)B(O)O)F | C15H15BF2O2
reactant | sodium carbonate | 2 N, 36 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 90 ml | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.58 mmol, 1.83 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3,5-difluoro-4′-propylbiphenyl-4-yl)-5-methylthiophene | FC=1C=C(C=C(C1C=1SC(=CC1)C)F)C1=CC=C(C=C1)CCC | C20H18F2S
